US04070366
2,3,4,5-Tetramethyl-pyrrole
2,4-Dimethyl-3,5-dicarbethoxy-pyrrole (2.4 g), acetic acid (35 ml), aq. hydriodic acid (35 ml) and paraformaldehyde (1.2 g) were heated at 100° C. for 4 hours under a stream of nitrogen. The crude product was obtained as in Example 5 then distilled (15 mm, 65° C.) to yield 0.44 g (36%), m.p. 107°-109°.

reactant | 2,4-Dimethyl-3,5-dicarbethoxy-pyrrole | 2.4 g | CC=1NC(=C(C1C(=O)OCC)C)C(=O)OCC | C12H17NO4
reactant | hydriodic acid | 35 ml | I | HI
reactant | paraformaldehyde | 1.2 g | C=O | CH2O
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | 2,3,4,5-Tetramethyl-pyrrole | CC=1NC(=C(C1C)C)C | C8H13N
